US07244745B2
4-[5-(5.6-Dihydro-4H-[2,3′]bipyridinyl-3-ylidenemethyl)thiophen-2-yl]phenol Dihydrobromide
To a −70° C. solution of 3-[5-(4-methoxyphenyl)thiophen-2-ylmethylene]-3,4,5,6-tetrahydro[2,3′]bipyridinyl (20 mg, 0.05 mmol) in anhydrous dichloromethane (5 mL) was added 1.0 M BBr3 in dichloromethane (0.5 mL). The reaction mixture was maintained under an atmosphere of N2 at rt. for 6 h and an additional 0.5 ml BBr3 solution was added. The reaction mixture was maintained over night and was quenched with anhydrous methanol (1 mL) at −40° C., and was concentrated to 1 ml. This procedure was repeated twice and the residue was dried under high vacuum. The solid obtained was washed with ethyl acetate and was isolated, thus providing 15 mg of an orange solid.: 1H NMR (DMSO-d6) δ 8.89 (m, 2H), 8.08 (m, 1H), 7.70 (m, 6H), 6.85 (m, 2H), 3.76 (m, 2H), 2.97 (m, 2H), 2.13 (m, 2H); MS (EI) m/z 347 (M++1).

reactant | 3-[5-(4-methoxyphenyl)thiophen-2-ylmethylene]-3,4,5,6-tetrahydro[2,3′]bipyridinyl | 0.05 mmol, 20 mg | COC1=CC=C(C=C1)C1=CC=C(S1)C=C1C(=NCCC1)C=1C=NC=CC1 | C22H20N2OS
reactant | BBr3 | 1.0 M | B(Br)(Br)Br | BBr3
reactant | BBr3 | 0.5 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 4-[5-(5.6-Dihydro-4H-[2,3′]bipyridinyl-3-ylidenemethyl)thiophen-2-yl]phenol Dihydrobromide | 15 mg | Br.Br.N1=C(C(CCC1)=CC1=CC=C(S1)C1=CC=C(C=C1)O)C=1C=NC=CC1 | InChI=1S/C21H18N2OS.2BrH/c24-18-7-5-15(6-8-18)20-10-9-19(25-20)13-16-3-2-12-23-21(16)17-4-1-11-22-14-17;;/h1,4-11,13-14,24H,2-3,12H2;2*1H
